US07939528B2
4-{[2-Chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-nitroaniline (1.41 g) was dissolved in 100 mL of ethyl acetate and hydrogenated over 100 mg of 10% Pd/carbon (wet, Degussa type) under balloon of H2 gas. After 24 hours, the reaction was filtered through Celite and concentrated to give 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1,2-benzenediamine which was used without further purification. (M+1) 306.9, 1.57 min (LC/MS method B)

reactant | 4-{[2-Chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-2-nitroaniline | 1.41 g | ClC1=C(C=CC(=C1)C1OCCO1)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C15H13ClN2O5
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd carbon | 100 mg | [Pd].[C]
product | 4-{[2-chloro-4-(1,3-dioxolan-2-yl)phenyl]oxy}-1,2-benzenediamine | ClC1=C(C=CC(=C1)C1OCCO1)OC=1C=C(C(=CC1)N)N | C15H15ClN2O3
